US07067517B2
Morpholine-4-carboxylic acid 4-methyl-2-oxo-3-phenyl-2H-chromen-7-yl ester
The title compound (75 mg, 41% yield, crystals) was prepared from 7-hydroxy-4-methyl-3-phenyl-chromen-2-one (126 mg, 0.50 mmol) and 1-methyl-3-(morpholine-4-carbonyl)-3H-imidazol-1-ium iodide (165 mg, 0.51 mmol).

reactant | 7-hydroxy-4-methyl-3-phenyl-chromen-2-one | 0.50 mmol, 126 mg | OC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=CC=C1)C | C16H12O3
reactant | 1-methyl-3-(morpholine-4-carbonyl)-3H-imidazol-1-ium iodide | 0.51 mmol, 165 mg | [I-].C[N+]1=CN(C=C1)C(=O)N1CCOCC1
product | Morpholine-4-carboxylic acid 4-methyl-2-oxo-3-phenyl-2H-chromen-7-yl ester | 75 mg, 41% yield | CC1=C(C(OC2=CC(=CC=C12)OC(=O)N1CCOCC1)=O)C1=CC=CC=C1 | C21H19NO5
